US04957917
5-Trimethylsilyl-3-furaldehyde is treated with lithium diisopropylamide and 2-tetradecanone, followed by acetic anhydride to give 3-(1-acetoxy-3-ketopentadecanyl)-5-trimethylsilylfuran. Oxidation by the method described in Example 1 gives 4-(1-acetoxy-3-ketopentadecanyl)-5-hydroxy-2(5H)-furanone.

reactant | 5-Trimethylsilyl-3-furaldehyde | C[Si](C1=CC(=CO1)C=O)(C)C | C8H12O2Si
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-tetradecanone | CC(CCCCCCCCCCCC)=O | C14H28O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(1-acetoxy-3-ketopentadecanyl)-5-trimethylsilylfuran | C(C)(=O)OC(CC(CCCCCCCCCCCC)=O)C1=COC(=C1)[Si](C)(C)C | C24H42O4Si
